US07635715B2
A solution of 1,1-dimethylethyl N-((6-chloro-4-hydroxy-2-oxo-1′-(phenylmethyl)-4H-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate (117 mg, 229 μmol) in TFA (1701 μL, 22896 μmol) was stirred at 23° C. After 25 minutes, the reaction was concentrated and the product was precipitated by addition of water (20 mL). The solid was collected by filtration, and the residue was washed with water (10 mL) and diethyl ether (5 mL), and dried under vacuum, affording 100 mg (77%) of N-((6-chloro-4-hydroxy-2-oxo-1′-(phenylmethyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycine as the trifluoroacetate salt. MS m/e=455.2 (M+H)+. Calculated for C26H24ClF3N2O7 454.13.

reactant | 1,1-dimethylethyl N-((6-chloro-4-hydroxy-2-oxo-1′-(phenylmethyl)-4H-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate | 229 μmol, 117 mg | ClC=1C=C2C(C(C(C3(CCN(CC3)CC3=CC=CC=C3)C2=CC1)=O)C(=O)NCC(=O)OC(C)(C)C)O | C28H33ClN2O5
reactant | TFA | 22896 μmol, 1701 μL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-chloro-4-hydroxy-2-oxo-1′-(phenylmethyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycine | 100 mg, 77% | ClC=1C=C2C(=C(C(C3(CCN(CC3)CC3=CC=CC=C3)C2=CC1)=O)C(=O)NCC(=O)O)O | C24H23ClN2O5
